US07470803B2
(d) Synthesis of 4-(trifluoromethyl)benzyl-4-(4-(triethoxysilyl)butyloxy)phenyl sulfone (Compound 43)
After 0.61 g of 4-(trifluoromethyl)benzyl-4-(3-butenyloxy)phenyl sulfone and 20 mg of 10% platinum-active carbon were charged in a reaction vessel, and the inside of the vessel was then filled with nitrogen gas, 2 ml of triethoxysilane was added, and the mixture was then further stirred at 100° C. for 4 hours. After the reaction mixture was cooled to room temperature, 20 ml of toluene was added, and the mixture was filtered through a pad of Celite™. After the filtrate was concentrated, dehydrated ethanol was added to the residue, which was then left still over night. After precipitated crystal was removed by filtration, the filtrate was concentrated, and n-hexane was added to collect precipitated crystal by filtration. The obtained crystal was washed with n-hexane to produce 0.53 g of the desired product.

reactant | 4-(trifluoromethyl)benzyl-4-(3-butenyloxy)phenyl sulfone | 0.61 g | FC(C1=CC=C(CC2=C(C=CC(=C2)OCCC=C)S(=O)(=O)C2=C(C=C(C=C2)OCCC=C)CC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C36H32F6O4S
reactant | triethoxysilane | 2 ml | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum | 20 mg | [Pt] | Pt
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(trifluoromethyl)benzyl-4-(4-(triethoxysilyl)butyloxy)phenyl sulfone | 0.53 g | FC(C1=CC=C(CC2=C(C=CC(=C2)OCCCC[Si](OCC)(OCC)OCC)S(=O)(=O)C2=C(C=C(C=C2)OCCCC[Si](OCC)(OCC)OCC)CC2=CC=C(C=C2)C(F)(F)F)C=C1)(F)F | C48H64F6O10SSi2
